* NGSPICE file created from inv.ext - technology: sky130A

.subckt inv Y A GND VDD
X0 Y A a_n73_n41# a_n73_n41# sky130_fd_pr__nfet_01v8 ad=0.128 pd=1.45 as=0.153 ps=1.57 w=0.42 l=0.15
X1 Y A w_n100_161# w_n100_161# sky130_fd_pr__pfet_01v8 ad=0.12 pd=1.41 as=0.12 ps=1.41 w=0.42 l=0.15
.ends

